US04547501
2,6,7-Trichloro-3-hydrazinoquinoxaline (4.9 g., 0.018 mole) in triethyl orthopropionate (50 ml.) was heated at 100° C. for 2 hours. The precipitate which formed was collected by means of filtration at room temperature and washed with cyclohexane. Recrystallization from chloroform/cyclohexane two times then afforded 2.9 g. (54% yield) of pure 1,7,8-trichloro-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline as a pink solid (m.p. 198°-201° C.).

reactant | 2,6,7-Trichloro-3-hydrazinoquinoxaline | 0.018 mole, 4.9 g | ClC1=NC2=CC(=C(C=C2N=C1NN)Cl)Cl | C8H5Cl3N4
solvent | triethyl orthopropionate | 50 ml | C(CC)(OCC)(OCC)OCC | C9H20O3
product | 1,7,8-trichloro-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline | 54% yield | ClC1(NN=C2N1C1=CC(=C(C=C1N=C2)Cl)Cl)CC | C11H9Cl3N4
